US04918070
Pivaloyloxymethyl 7β-[2-(2-aminothiazol-4-yl)-(Z)-2-methoxyiminoacetamido]-3-(4-cyanobenzyloxy)-3-cephem-4-carboxylate
57.4 mg (0.38 mmol) of chloromethyl pivalate was dissolved in 2 ml of acetone, and 63 mg (0.42 mmol) of sodium iodide was added thereto. The mixture was heated for 30 minutes at 50° C., and 4 ml of ethyl ether was added thereto. Insolubles were filtered off and the solvent was distilled off. Then, the residue was dissolved in 1 ml of N,N-dimethylformamide. 100 mg (0.217 mmol) of sodium 7β-[2-(2-aminothiazol-4-yl)-(Z)-2-methoxyiminoacetamido]-3-(4-cyanobenzyloxy)-3-cephem-4-carboxylate prepared in the same manner as in Example 12 was dissolved in 1 ml of N,N-dimethylformamide. The above solution was added to this solution under cooling with ice and stirred for 30 minutes at room temperature. Water and ethyl acetate was added to the reaction solution, and the ethyl acetate layer was separated and washed sequentially with a saturated sodium hydrogencarbonate aqueous solution and a saturated sodium chloride aqueous solution and dried over magnesium sulfate. The solvent was distilled off and the residue was triturated with ethyl ether to obtain 24.8 mg (yield: 21.2%) of the above-identified compound.

reactant | chloromethyl pivalate | 0.38 mmol, 57.4 mg | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
reactant | sodium iodide | 0.42 mmol, 63 mg | [I-].[Na+]
reactant | ethyl ether | 4 ml | C(C)OCC | C4H10O
reactant | sodium 7β-[2-(2-aminothiazol-4-yl)-(Z)-2-methoxyiminoacetamido]-3-(4-cyanobenzyloxy)-3-cephem-4-carboxylate | 0.217 mmol, 100 mg | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)OCC2=CC=C(C=C2)C#N)C(=O)[O-])C1=O)=N/OC.[Na+]
solvent | acetone | 2 ml | CC(=O)C | C3H6O
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | Pivaloyloxymethyl 7β-[2-(2-aminothiazol-4-yl)-(Z)-2-methoxyiminoacetamido]-3-(4-cyanobenzyloxy)-3-cephem-4-carboxylate | 24.8 mg, yield: 21.2% | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)OCC2=CC=C(C=C2)C#N)C(=O)OCOC(C(C)(C)C)=O)C1=O)=N/OC | C27H28N6O8S2
